2186-06-25 07:43:00 Physician Resident Progress Note
Chief Complaint: sepsis
   24 Hour Events:
 BLOOD CULTURED - At [**2186-6-24**] 09:30 AM
 FEVER - 101.7
F - [**2186-6-24**] 08:00 AM
   - stopped levophed
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   hypotension;
   Last dose of Antibiotics:
   Tobramycin - [**2186-6-24**] 06:00 AM
   Vancomycin - [**2186-6-24**] 09:00 PM
   Meropenem - [**2186-6-25**] 02:53 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2186-6-25**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-6-25**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.8
C (100.1
   HR: 107 (74 - 118) bpm
   BP: 105/69(77) {75/46(54) - 139/69(86)} mmHg
   RR: 19 (12 - 23) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 11 (7 - 17)mmHg
   Total In:
                                                                  4,140 mL
                                                                    416 mL
   PO:
                                                                  1,250 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,890 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  2,230 mL
                                                                    370 mL
   Urine:
                                                                  2,230 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,910 mL
                                                                     46 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   GENERAL: NAD
   HEENT: PERRL, dry MM
   NECK: supple
   LUNGS: +crackles @ left base, decreased BS on right
   HEART: irreg irreg, nl S1-S2, [**3-24**] SM
   ABDOMEN: +BS, soft/NT/ND, no rebound/guarding
   EXTREM: 2+ BLE pitting edema
   SKIN: no rash
   NEURO: A&Ox3, strength 5/5 throughout, sensation grossly intact
   throughout
   Labs / Radiology
   150 K/uL
   9.2 g/dL
   82 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.6 mEq/L
   6 mg/dL
   108 mEq/L
   140 mEq/L
   29.4 %
   5.8 K/uL
        [image002.jpg]
                             [**2186-6-24**]  02:59 AM
                             [**2186-6-25**]  02:32 AM
                             [**2186-6-25**]  06:31 AM
   WBC
   7.9
   5.8
   Hct
   30.7
   27.7
   29.4
   Plt
   133
   150
   Cr
   0.7
   0.7
   Glucose
   87
   82
   Other labs: PT / PTT / INR:15.2/40.1/1.3, ALT / AST:6/36, Alk Phos / T
   Bili:207/1.0, Albumin:2.6 g/dL, LDH:197 IU/L, Ca++:7.9 mg/dL, Mg++:2.2
   mg/dL, PO4:2.5 mg/dL
   Imaging: CXR:
   Microbiology: Sputum: OP flora
   Blood: NGTD
   Stool: c diff neg X 1
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
   66-yo man w/ pAF, h/o C.diff colitis, recent pneumonia, d/c'd two days
   ago on Vanc / Zosyn, who p/w worsening hypoxia and mental status at
   home, now also hypotensive.
   .
   #. Sepsis - Pt w/ high fever, hypoxia, and hypotension. Given recent
   pneumonia, resistant organism most likely source, esp given current
   hypoxia. Received Abx in ED: Vanc/[**Last Name (un) **]/Tobra. CXR appears worse than
   recent discharge, with ? new or developing RLL pneumonia. Hypotension
   IVF responsive. Other sources of sepsis would include PICC line
   (pulled, cx pending),  C.diff given hx and concurrent Abx use.
   - cont Vanc / [**Last Name (un) **]
   - f/u blood cx sent from ED
   - send sputum cx if possible
   - IVF boluses PRN hypotension, follow CVP
   - if needed, will use Levophed for vasopressor support
   - consider sending stool for C.diff
   - Tylenol PRN
   .
   #. Hypoxia - Likely [**3-20**] pneumonia. [**Month (only) 60**] have organism resistant to prior
   Vanc / Zosyn. CXR w/ worsening pneumonia in RLL.
   - follow serial CXRs
   - send sputum cx
   .
   #. Bradycardia / hypotension - Pt noted to have a few short episodes of
   bradycardia and hypotension on arrival to ED. Resolved on own, and pt
   mentated well.
   - atropine at bedside
   - [**Hospital1 2259**] pads in place
   - cont to monitor on telemetry
   #. Paroxysmal atrial fibrillation - Takes Flecainide and Digoxin at
   home. Dig level in ED low at 0.5. Currently in PAF w/ PVCs.
   - continue home digoxin and flecainide
   - continue home aspirin
   #. Bipolar disorder - Pt stable on Depakote x several years, no recent
   changes. Last night there were some concerns over somnolence and flat
   affect
   - cont home Depakote, Olanzapine
   .
   #. Hepatitis C - Pt takes Cholestyramine at home given elevated
   bilirubin.
   - cont home Cholestyramine
   .
   #. FEN - NPO, IVF: NS, replete lytes PRN
   #. PPx - SQ Heparin, pneumoboots, H2B
   #. Access - RIJ triple-lumen, PIVs x3
   #. Communication - with patient, wife
   #. FULL CODE
   #. Dispo - ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2186-6-23**] 11:06 PM
   16 Gauge - [**2186-6-23**] 11:08 PM
   18 Gauge - [**2186-6-23**] 11:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2186-06-25 07:50:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   Chief Complaint:  sepsis
   HPI:
   66 yr old man with hx of parox Afib, C diff, hepc, bipolar and recent
   PNA who was just discharged in [**6-21**] on Vanco Zosyn for PNA.
   Found by family at home to be fatigued appearing, warm, home O2 at 2
   liters but skin looked grey.  Brought to Ed found to be Temp 101. 4 ,
   initial BP 150/80 tachy 100, stats 99 % on NRB ( wean to 6 L but sats
   80) Lactate 2.6 CXR with coiled PICC line- pulled. In ED his BP
   dropped, right CVL plced, 4 liters NS given with bump in SBP 95-100. ID
   curbsided since sick on Vanco and Zosyn and rec vanco [**Last Name (un) **] Tobra - all
   given in ED
   Yesterday
s events ([**2186-6-24**]):
   Never needed pressors.
   Rigorx1 o/n-> demerol.
   Oxygen weaned to 4L.
   Some verbal hesitancy noted on exam by RN- not baseline per family.
   Febrile to 101 this AM
   CVP 4->7 o/n
   TBB +5.5L, u/o appx 100/hr
   24 Hour Events:
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   hypotension;
   Last dose of Antibiotics:
   Tobramycin - [**2186-6-24**] 06:00 AM
   Vancomycin - [**2186-6-24**] 09:00 PM
   Meropenem - [**2186-6-25**] 02:53 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2186-6-25**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-6-25**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.8
C (100.1
   HR: 107 (74 - 118) bpm
   BP: 105/69(77) {75/46(54) - 139/69(86)} mmHg
   RR: 19 (12 - 23) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 11 (7 - 17)mmHg
   Total In:
                                                                  4,140 mL
                                                                    418 mL
   PO:
                                                                  1,250 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,890 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  2,230 mL
                                                                    370 mL
   Urine:
                                                                  2,230 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,910 mL
                                                                     48 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   150 K/uL
   82 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.6 mEq/L
   6 mg/dL
   108 mEq/L
   140 mEq/L
   29.4 %
   5.8 K/uL
        [image002.jpg]
                             [**2186-6-24**]  02:59 AM
                             [**2186-6-25**]  02:32 AM
                             [**2186-6-25**]  06:31 AM
   WBC
   7.9
   5.8
   Hct
   30.7
   27.7
   29.4
   Plt
   133
   150
   Cr
   0.7
   0.7
   Glucose
   87
   82
   Other labs: PT / PTT / INR:15.2/40.1/1.3, ALT / AST:6/36, Alk Phos / T
   Bili:207/1.0, Albumin:2.6 g/dL, LDH:197 IU/L, Ca++:7.9 mg/dL, Mg++:2.2
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   66 yr old man with recent PNA returns with sepsis.  Overall story
   suspicious for line infection given his HoTN came only after PICC
   removal.  Endocarditis, COPD exacerbation, PE other less likely
   considerations as cause for decompensation.
   1. Sepsis:
   Continue Vanco and [**Last Name (un) **] for now.  Hold [**Female First Name (un) **] unless ID wants to
   continue.
   No volume resucitated.  TBB goal even.
   TTE to look for vegetations, eval murmur heard on exam.
   2. Hypoxemic Resp Distress:
   Likely multifactorial: pulm edema, COPD, underlying PNA.
   Standing atrovent q6.
   3. Afib: continue with Dig and Flecanide (home meds).  Breifly in
   bigeminy pattern overnight and per notes, in sinus predominantly.
   Unclear if he was in nsr when he left the hospital 2 days ago.
   4. Neuro: tylenol for fever.  Continue depakote, olanzipine.
   5. GI:  Dysphagia diet.
   6.                   Lines: Right IJ, 3 PIV.
   7.                   PPX: heparin SC, pnemoboots.
   8.                   Family: Family coming in today.  Wife is HCP
   9.                   DISPO- full code.  MICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2186-6-23**] 11:06 PM
   16 Gauge - [**2186-6-23**] 11:08 PM
   18 Gauge - [**2186-6-23**] 11:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2186-06-25 17:19:00 Physician Resident Progress Note
Chief Complaint: sepsis
   24 Hour Events:
 BLOOD CULTURED - At [**2186-6-24**] 09:30 AM
 FEVER - 101.7
F - [**2186-6-24**] 08:00 AM
   - stopped levophed
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   hypotension;
   Last dose of Antibiotics:
   Tobramycin - [**2186-6-24**] 06:00 AM
   Vancomycin - [**2186-6-24**] 09:00 PM
   Meropenem - [**2186-6-25**] 02:53 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2186-6-25**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-6-25**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.8
C (100.1
   HR: 107 (74 - 118) bpm
   BP: 105/69(77) {75/46(54) - 139/69(86)} mmHg
   RR: 19 (12 - 23) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 11 (7 - 17)mmHg
   Total In:
                                                                  4,140 mL
                                                                    416 mL
   PO:
                                                                  1,250 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,890 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  2,230 mL
                                                                    370 mL
   Urine:
                                                                  2,230 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,910 mL
                                                                     46 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   GENERAL: NAD
   HEENT: PERRL, dry MM
   NECK: supple
   LUNGS: +crackles @ left base, decreased BS on right
   HEART: irreg irreg, nl S1-S2, [**3-24**] SM
   ABDOMEN: +BS, soft/NT/ND, no rebound/guarding
   EXTREM: 2+ BLE pitting edema
   SKIN: no rash
   NEURO: A&Ox3, strength 5/5 throughout, sensation grossly intact
   throughout
   Labs / Radiology
   150 K/uL
   9.2 g/dL
   82 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.6 mEq/L
   6 mg/dL
   108 mEq/L
   140 mEq/L
   29.4 %
   5.8 K/uL
        [image002.jpg]
                             [**2186-6-24**]  02:59 AM
                             [**2186-6-25**]  02:32 AM
                             [**2186-6-25**]  06:31 AM
   WBC
   7.9
   5.8
   Hct
   30.7
   27.7
   29.4
   Plt
   133
   150
   Cr
   0.7
   0.7
   Glucose
   87
   82
   Other labs: PT / PTT / INR:15.2/40.1/1.3, ALT / AST:6/36, Alk Phos / T
   Bili:207/1.0, Albumin:2.6 g/dL, LDH:197 IU/L, Ca++:7.9 mg/dL, Mg++:2.2
   mg/dL, PO4:2.5 mg/dL
   Imaging: CXR:
   Microbiology: Sputum: OP flora
   Blood: NGTD
   Stool: c diff neg X 1
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
   66-yo man w/ pAF, h/o C.diff colitis, recent pneumonia, d/c'd two days
   ago on Vanc / Zosyn, who p/w worsening hypoxia and mental status at
   home, now also hypotensive.
   .
   #. Sepsis - Pt w/ high fever, hypoxia, and hypotension. Given recent
   pneumonia, resistant organism most likely source, esp given current
   hypoxia. Received Abx in ED: Vanc/[**Last Name (un) **]/Tobra. CXR appears worse than
   recent discharge, with ? new or developing RLL pneumonia. Hypotension
   IVF responsive. Other sources of sepsis would include PICC line
   (pulled, cx pending),  C.diff given hx and concurrent Abx use,
   worsening PNA.
   - cont Vanc / [**Last Name (un) **]
   - f/u blood cx sent from ED
   - send sputum cx if possible
   - IVF boluses PRN hypotension, follow CVP
   - if needed, will use Levophed for vasopressor support
   - sending stool for C.diff
   - Tylenol PRN
   .
   #. Hypoxia - Likely [**3-20**] pneumonia. [**Month (only) 60**] have organism resistant to prior
   Vanc / Zosyn. CXR w/ worsening pneumonia in RLL.
   - follow serial CXRs
   - send sputum cx
   .
   #. Bradycardia / hypotension - Pt noted to have a few short episodes of
   bradycardia and hypotension on arrival to ED. Resolved on own, and pt
   mentated well.
   #. Paroxysmal atrial fibrillation - Takes Flecainide and Digoxin at
   home. Dig level in ED low at 0.5. Currently in PAF w/ PVCs.
   - continue home digoxin and flecainide
   - start low dose BB
   - continue home aspirin
   #. Bipolar disorder - Pt stable on Depakote x several years, no recent
   changes. Last night there were some concerns over somnolence and flat
   affect
   - cont home Depakote
   - d/c olanzapine, psych consult today
   .
   #. Hepatitis C - Pt takes Cholestyramine at home given elevated
   bilirubin.
   - cont home Cholestyramine
   .
   #. FEN - NPO, IVF: NS, replete lytes PRN
   #. PPx - SQ Heparin, pneumoboots, H2B
   #. Access - RIJ triple-lumen, PIVs x3
   #. Communication - with patient, wife
   #. FULL CODE
   #. Dispo - ICU
   ICU Care
   Nutrition: ground, thick
   Glycemic Control:
   Lines:
   Presep Catheter - [**2186-6-23**] 11:06 PM
   16 Gauge - [**2186-6-23**] 11:08 PM
   18 Gauge - [**2186-6-23**] 11:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   Code status: Full code
   Disposition:ICU

2186-06-26 08:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**6-25**]
   - per family, lately he has been slower to respond
   - stopped olanzapine
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   hypotension;
   Last dose of Antibiotics:
   Tobramycin - [**2186-6-24**] 06:00 AM
   Vancomycin - [**2186-6-25**] 08:00 PM
   Meropenem - [**2186-6-26**] 03:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2186-6-26**] 05:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-6-26**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 88 (78 - 126) bpm
   BP: 144/58(80) {90/52(62) - 147/77(90)} mmHg
   RR: 35 (16 - 35) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
    CVP: 12 (-4 - 19)mmHg
   Total In:
                                                                  3,330 mL
                                                                    179 mL
   PO:
                                                                  2,290 mL
   TF:
   IVF:
                                                                  1,040 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                  1,770 mL
                                                                    420 mL
   Urine:
                                                                  1,770 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,560 mL
                                                                   -241 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: ///24/
   Physical Examination
   GENERAL: NAD
   HEENT: PERRL, dry MM
   NECK: supple
   LUNGS: +crackles @ left base, decreased BS on right
   HEART: irreg irreg, nl S1-S2, [**3-24**] SM
   ABDOMEN: +BS, soft/NT/ND, no rebound/guarding
   EXTREM: 2+ BLE pitting edema
   SKIN: no rash
   NEURO: A&Ox3, strength 5/5 throughout, sensation grossly intact
   throughout
   Labs / Radiology
   193 K/uL
   9.2 g/dL
   113 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.4 mEq/L
   7 mg/dL
   108 mEq/L
   139 mEq/L
   28.3 %
   9.1 K/uL
        [image002.jpg]
                             [**2186-6-24**]  02:59 AM
                             [**2186-6-25**]  02:32 AM
                             [**2186-6-25**]  06:31 AM
                             [**2186-6-26**]  03:46 AM
   WBC
   7.9
   5.8
   9.1
   Hct
   30.7
   27.7
   29.4
   28.3
   Plt
   133
   150
   193
   Cr
   0.7
   0.7
   0.8
   Glucose
   87
   82
   113
   Other labs: PT / PTT / INR:15.2/40.1/1.3, ALT / AST:6/36, Alk Phos / T
   Bili:207/1.0, Albumin:2.6 g/dL, LDH:197 IU/L, Ca++:9.1 mg/dL, Mg++:2.3
   mg/dL, PO4:3.0 mg/dL
   Microbiology: Blood Cx NGTD
   Catheter tip Cx NGTD
   C.diff neg x1
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
   66-yo man w/ pAF, h/o C.diff colitis, recent pneumonia, d/c'd two days
   ago on Vanc / Zosyn, who p/w worsening hypoxia and mental status at
   home, now also hypotensive.
   #. Sepsis - Pt w/ high fever, hypoxia, and hypotension. Given recent
   pneumonia, resistant organism most likely source, esp given current
   hypoxia. Received Abx in ED: Vanc/[**Last Name (un) **]/Tobra. CXR appears worse than
   recent discharge, with ? new or developing RLL pneumonia. Hypotension
   IVF responsive. Other sources of sepsis would include PICC line
   (pulled, cx pending),  C.diff given hx and concurrent Abx use,
   worsening PNA. Based on chest XR and serial imaging, he has an area in
   the right base that is most likely a component of atelectaasis and
   resolving pneumonia.
   - cont Vanc (d13) / [**Last Name (un) **] (day 4)
   - f/u all culture data
   - IVF boluses PRN hypotension, follow CVP
   - if needed, will use Levophed for vasopressor support
   - Tylenol PRN
   #. Hypoxia - Likely [**3-20**] pneumonia. [**Month (only) 60**] have organism resistant to prior
   Vanc / Zosyn. CXR w/ worsening pneumonia in RLL. Benefits from face
   mask as he is a mouth breather
   - follow serial CXRs
   - send sputum cx
   #. Bradycardia / hypotension - Pt noted to have a few short episodes of
   bradycardia and hypotension on arrival to ED. Resolved on own, and pt
   mentated well.
   #. Paroxysmal atrial fibrillation - Takes Flecainide and Digoxin at
   home. Dig level in ED low at 0.5. Currently in PAF w/ PVCs.
   - continue home digoxin and flecainide
   - cont low dose BB
   - continue home aspirin
   #. Bipolar disorder - Pt stable on Depakote x several years, no recent
   changes. Last night there were some concerns over somnolence and flat
   affect
   - cont home Depakote
   - d/c olanzapine, psych consult today
   #. Hepatitis C - Pt takes Cholestyramine at home given elevated
   bilirubin.
   - cont home Cholestyramine
   - has outpatient liver f/u
   ICU Care
   Nutrition:
   Comments: Regular; Low sodium / Heart healthy Consistency: Ground
   (dysphagia); Thin liquids
   Glycemic Control:
   Lines:
   Presep Catheter - [**2186-6-23**] 11:06 PM
   16 Gauge - [**2186-6-23**] 11:08 PM
   18 Gauge - [**2186-6-23**] 11:08 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   Code status: Full code
   Disposition:Transfer to floor

2186-06-26 10:56:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint:  sepsis
   HPI:
   66 yr old man with hx of parox Afib, C diff, HCV, bipolar and recent
   PNA who was just discharged in [**6-21**] on Vanco Zosyn for PNA.  Overall
   story suspicious for line infection given his HoTN came only after PICC
   removal.  COPD and PNA treatment failure also potential contributors.
   24 Hour Events:
   zyprexa was stopped
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   hypotension;
   Last dose of Antibiotics:
   Tobramycin - [**2186-6-24**] 06:00 AM
   Vancomycin - [**2186-6-26**] 08:32 AM
   Meropenem - [**2186-6-26**] 09:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2186-6-26**] 05:55 AM
   Other medications:
   felcinide
   MVI
   zantac
   iron
   digoxin
   depakote
   asa 325mg po qday
   vanc 1g Q12
   Hep SQ
   Meropenem
   atrovent
   metoprolol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-6-26**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37
C (98.6
   HR: 90 (75 - 126) bpm
   BP: 90/53(60) {90/49(60) - 147/77(90)} mmHg
   RR: 21 (17 - 35) insp/min
   SpO2: 94% 40% mask
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
   CVP: 7 (-4 - 19)mmHg
   Total In:
                                                                  3,330 mL
                                                                    509 mL
   PO:
                                                                  2,290 mL
   TF:
   IVF:
                                                                  1,040 mL
                                                                    509 mL
   Blood products:
   Total out:
                                                                  1,770 mL
                                                                    540 mL
   Urine:
                                                                  1,770 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,560 mL
                                                                    -31 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   GEN   Clinically improved.  NAD
   CV      1/6 SEM. No m/r/g
   LUNGS   Bil end expiratory wheeze
   ABD     distended,soft, obese
   EXT    edematous
   Skin    abrasions on left knee and toes as previously documented.
   NEURO   Verbal hesitancy improved, mild anisacoria with nebs but EOMI
   Labs / Radiology: fluid in right fissure, RML air
   bronchogram/atelectasis
                                  9.2 g/dL
   193 K/uL
   113 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.4 mEq/L
   7 mg/dL
   108 mEq/L
   139 mEq/L
   28.3 %
   9.1 K/uL
                             [**2186-6-24**]  02:59 AM
                             [**2186-6-25**]  02:32 AM
                             [**2186-6-25**]  06:31 AM
                             [**2186-6-26**]  03:46 AM
   WBC
   7.9
   5.8
   9.1
   Hct
   30.7
   27.7
   29.4
   28.3
   Plt
   133
   150
   193
   Cr
   0.7
   0.7
   0.8
   Glucose
   87
   82
   113
   Other labs: PT / PTT / INR:15.2/40.1/1.3, ALT / AST:6/36, Alk Phos / T
   Bili:207/1.0, Albumin:2.6 g/dL, LDH:197 IU/L, Ca++:9.1 mg/dL, Mg++:2.3
   mg/dL, PO4:3.0 mg/dL
   Micro-Blood/cath tip negative
   Assessment and Plan
   66 yr old man with recent PNA returns with sepsis.  Overall story
   suspicious for line infection given his HoTN came only after PICC
   removal.  COPD and PNA treatment failure also potential contributors.
   1. Sepsis:
   Continue Vanco and [**Last Name (un) **] for now.
   Currently Day 13/14 vanc and day 4 [**Last Name (un) 430**] for 7 days
   Will consider d
c if all cx negative
   TBB goal -1L
   TTE pending.
   2. Hypoxemic Resp Distress:
   Likely multifactorial: pulm edema after resuscitation, COPD, underlying
   PNA.
   Standing atrovent q6.  Empiric ABX
   Would repeat speech and swallow evalutation
   goal negative diuresis
   3. Afib:
   -continue with Dig and Flecanide (home meds)
   -give lopressor for goal SBP<110
   -Will space out medications to prevent hypotension
   4. Neuro: suspicion for component of parkinsons
   -tylenol for fever
   -continue depakote .  check level
   5. GI:
   -Dysphagia diet. , will need video swallow and if he fails, PEG a
   consideration too given marginal nutritional  intake
   6. Lines:
   -Right IJ
   -3 PIV.
   ICU Care
   Nutrition: regular dysphagia diet, Speech and swallow
   Glycemic Control:
   Lines:
   Presep Catheter - [**2186-6-23**] 11:06 PM
   16 Gauge - [**2186-6-23**] 11:08 PM
   18 Gauge - [**2186-6-23**] 11:08 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU for now till respiratory status better
   Total time spent:  25 mins

2186-06-27 07:28:00 Physician Resident Progress Note
Chief Complaint:
I feel well
.  No SOB/CP this AM.
   24 Hour Events:
   - Initially got boluses of IVF for hypotension, did not respond
   - Decreased Lopressor dose given hypotension, held during day
   - Exam c/w fluid overload, given IV Lasix bolus with good response in
   UOP but continued hypotension (SBP 80s, MAP >60)
   - Bedside speech/swallow eval: PO diet nectar thick liquids and soft
   solids, Pills whole with puree or nectar thick liquid, Supervision
   during meals; needs video swallow tomorrow.
   - Nutrition consulted re: calorie counts
   - Will check valproic acid level and HIV with AM labs tomorrow
   - CBC w/ diff and Ig levels WNL
   - TTE to r/o endocarditis: LVEF>55%, no vegetations but suboptimal
   image quality
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   hypotension;
   Last dose of Antibiotics:
   Vancomycin - [**2186-6-26**] 08:00 PM
   Meropenem - [**2186-6-27**] 03:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2186-6-26**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2186-6-27**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-6-27**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.2
C (97.2
   HR: 109 (70 - 114) bpm
   BP: 92/65(65) {77/39(46) - 122/73(82)} mmHg
   RR: 16 (16 - 30) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
    CVP: 21 (2 - 21)mmHg
   Total In:
                                                                  1,770 mL
                                                                    174 mL
   PO:
                                                                    480 mL
   TF:
   IVF:
                                                                  1,290 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  3,420 mL
                                                                    265 mL
   Urine:
                                                                  3,420 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,650 mL
                                                                    -91 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///29/
   Physical Examination
   GENERAL: NAD
   HEENT: Anisicoria with dilated right pupil; 6mm -> 5mm to direct and
   contralateral light; vision somewhat diminished in that eye;
   funcoscopic exam normal
   NECK: RIJ in place
   LUNGS: anterior crackles at b/l bases
   HEART: irreg irreg, nl S1-S2, [**3-24**] SM
   ABDOMEN: +BS, distended and tight; non-tender
   EXTREM: [**3-21**]+ BLE pitting edema with abrasions on left toes
   SKIN: no rash
   NEURO: A&Ox2 (knows name/place but can
t tell me time)
   Labs / Radiology
   178 K/uL
   9.9 g/dL
   90 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.9 mEq/L
   8 mg/dL
   105 mEq/L
   140 mEq/L
   29.9 %
   8.0 K/uL
        [image002.jpg]
                             [**2186-6-24**]  02:59 AM
                             [**2186-6-25**]  02:32 AM
                             [**2186-6-25**]  06:31 AM
                             [**2186-6-26**]  03:46 AM
                             [**2186-6-27**]  04:14 AM
   WBC
   7.9
   5.8
   9.1
   8.0
   Hct
   30.7
   27.7
   29.4
   28.3
   29.9
   Plt
   133
   150
   193
   178
   Cr
   0.7
   0.7
   0.8
   0.7
   Glucose
   87
   82
   113
   90
   Other labs: PT / PTT / INR:15.2/40.1/1.3, ALT / AST:6/36, Alk Phos / T
   Bili:207/1.0, Differential-Neuts:64.0 %, Band:2.0 %, Lymph:26.0 %,
   Mono:6.0 %, Eos:2.0 %, Albumin:2.6 g/dL, LDH:197 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Micro:
   Blood ([**6-23**], [**6-24**]):  NGTD
   PICC line ([**6-23**]):  No growth
   C.diff ([**6-24**]):  Negative
   Sputum ([**6-24**]):  Poor sample
   MRSA screen ([**6-24**]):  Negative
   Assessment and Plan:  66M with a history of pAF, c.diff colitis, recent
   pneumonia, presenting with recurrent PNA/sepsis just two days after
   discharge.
   # Sepsis:  Presented with high fever, hypoxia, and hypotension. Given
   recent pneumonia and use of broad spectrum antibiotics, resistant
   organisms are of concern.  CXR appears worse than recent discharge,
   with new or developing RLL pneumonia.  PICC line was pulled on
   admission with culture showing no growth.  Hypotension IVF responsive.
   - Continue vancomycin (Day 14/14) / [**Last Name (un) **] (Day [**6-22**])
   - Blood culture pending
   - PRN IVF boluses for hypotension, follow CVP
   - PRN Levophed for vasopressor support (has not required)
   - Tylenol PRN
   # Anisicoria:  Noted in some previous notes.  [**Month (only) 60**] be related to
   atrovent.  Could also represent sympathetic irritation/damage.
   - Review records to see if this is a chronic finding
   - Consider CT neck if persists
   - Hold atrovent
   # Hypoxia:   Likely [**3-20**] pneumonia. Benefits from face mask as he is a
   mouth breather
   - Daily CXR
   - Re-send sputum culture if able to produce
   - Given recurrence x4, check total IgG and HIV
   - Video swallow evaluation today
   # Paroxysmal atrial fibrillation:  On Flecainide and Digoxin at home.
   Dig level in ED low at 0.5.
   - Continue digoxin and flecainide
   - Metoprolol written though held yesterday in setting of low BP
   - Continue aspirin
   # Bipolar disorder:  Stable on Depakote for several years with no
   recent changes. Initial concerns over somnolence and flat affect.
   - Continue home Depakote
   - Holding olanzapine,
   - Consider psych consult
   # Hepatitis C:  Takes Cholestyramine at home given elevated bilirubin.
   - Cont home Cholestyramine
   - Outpatient liver f/u
   # Bradycardia:  Noted to have a few short episodes of bradycardia and
   hypotension on arrival to ED. Resolved.
   ICU Care
   Nutrition: PO diet nectar thick liquids and soft solids, Pills whole
   with puree or nectar thick liquid, Supervision during meals; needs
   video swallow tomorrow.
   Lines:
   Presep Catheter - [**2186-6-23**] 11:06 PM
   16 Gauge - [**2186-6-23**] 11:08 PM
   18 Gauge - [**2186-6-23**] 11:08 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   Code status: Full code
   Disposition:Transfer to floor

2186-06-27 09:47:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint:  sepsis
   HPI:
   66 yr old man with hx of parox Afib, C diff, HCV, bipolar and recent
   PNA who was just discharged in [**6-21**] on Vanco Zosyn for PNA.  Overall
   story suspicious for line infection given his HoTN came only after PICC
   removal.  COPD and PNA treatment failure also potential contributors.
   24 Hour Events:
   Diuresed 1500
   Speech and swallow recommended nector thick liquids and video swallow.
 TRANSTHORACIC ECHO - At [**2186-6-26**] 11:30 AM
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   hypotension;
   Last dose of Antibiotics:
   Vancomycin - [**2186-6-26**] 08:00 PM
   Meropenem - [**2186-6-27**] 03:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2186-6-26**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2186-6-27**] 06:00 AM
   Other medications:
   Day #Meropenem
   Day vanc 1g Q12
   felcinide
   MVI
   zantac
   iron
   digoxin
   depakote
   asa 325mg po qday
   Hep SQ
   atrovent Q6
   metoprolol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-6-27**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.6
C (99.7
   HR: 93 (70 - 114) bpm
   BP: 84/54(61) {77/39(46) - 118/73(82)} mmHg
   RR: 21 (16 - 30) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
   CVP: 21 (2 - 21)mmHg
   Total In:
                                                                  1,770 mL
                                                                    198 mL
   PO:
                                                                    480 mL
   TF:
   IVF:
                                                                  1,290 mL
                                                                    198 mL
   Blood products:
   Total out:
                                                                  3,420 mL
                                                                    375 mL
   Urine:
                                                                  3,420 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,650 mL
                                                                   -177 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   GEN   Clinically improved.  NAD
   HEENT: Right pupil 5mm minimally reactive left reacts to swing
   flashlight, vision decreased right eye, optic disc and retina within
   normal limits, Superior oblique weakness on exam no diplopia.  Left
   pupil wnl.  OP clear
   CV      1/6 SEM. No m/r/g
   LUNGS   Bil end expiratory wheeze
   ABD     distended,soft, obese
   EXT    edematous
   Skin    abrasions on left knee and toes as previously documented.
   NEURO   Verbal hesitancy improved
   Labs / Radiology: edema improved with RML consolidation continued.
   9.9 g/dL
   178 K/uL
   90 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.9 mEq/L
   8 mg/dL
   105 mEq/L
   140 mEq/L
   29.9 %
   8.0 K/uL
        [image002.jpg]
                             [**2186-6-24**]  02:59 AM
                             [**2186-6-25**]  02:32 AM
                             [**2186-6-25**]  06:31 AM
                             [**2186-6-26**]  03:46 AM
                             [**2186-6-27**]  04:14 AM
   WBC
   7.9
   5.8
   9.1
   8.0
   Hct
   30.7
   27.7
   29.4
   28.3
   29.9
   Plt
   133
   150
   193
   178
   Cr
   0.7
   0.7
   0.8
   0.7
   Glucose
   87
   82
   113
   90
   Other labs: PT / PTT / INR:15.2/40.1/1.3, ALT / AST:6/36, Alk Phos / T
   Bili:207/1.0, Differential-Neuts:64.0 %, Band:2.0 %, Lymph:26.0 %,
   Mono:6.0 %, Eos:2.0 %, Albumin:2.6 g/dL, LDH:197 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Micro
   Blood pending 8^th 9^th
   Negative MRSA
   Sputum poor sample
   stool neg C.Diff
   TTE-Preserved EF normal valves
   Assessment and Plan
   66 yr old man with recent PNA returns with sepsis.  Overall story
   suspicious for line infection given his HoTN came only after PICC
   removal.  COPD and PNA treatment failure also potential contributors.
   1. Sepsis: resolved
   Continue Vanco and [**Last Name (un) **] for now.
   Currently Day 14/14 vanc and day 5 [**Last Name (un) 430**] for 7 days
   Will consider d
c if all cx negative
   TBB goal -1L
   2. Hypoxemic Resp Distress: -this is his 4^th RML PNA
   Likely multifactorial: pulm edema after resuscitation, COPD, underlying
   PNA.
   Would repeat speech and swallow evalutation
   goal negative diuresis
   Check total IgG and HIV
   3. Afib:
   -continue with Dig and Flecanide (home meds)
   -give lopressor for goal SBP<110
   -Will space out medications to prevent hypotension
   4. Neuro: suspicion for component of parkinsons
   -tylenol for fever
   -continue depakote .  check level
   5.Pupil anasacoria-Will check visual exam and fundoscopic exam
   -Will hold atrovent nebs
   -Hx of right sided craniotomy recent negative CT scan will review
   records to see if these findings are old.
   6. GI:
   -Dysphagia diet. , will need video swallow and if he fails, PEG a
   consideration too given marginal nutritional  intake
   ICU Care
   Nutrition: Thick liquids and soft solids
   Glycemic Control:
   Lines:
   Presep Catheter - [**2186-6-23**] 11:06 PM
   16 Gauge - [**2186-6-23**] 11:08 PM
   18 Gauge - [**2186-6-23**] 11:08 PM
   Prophylaxis:
   DVT: Hep SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2186-06-28 07:27:00 Physician Resident Progress Note
Chief Complaint: Unequal pupils, R eye ptosis
   24 Hour Events:
   - anisocoria on exam w/ R pupil that appeared to be unresponsive.
   Also, difficulty w/ upward gaze on the R. **** On review of past
   records pt apparently has had similar exam in the past
   - atrovent discontinued
   - CT head w/o contrast w/o ICH (wet read)
   - asked neuro to re-see and they are suggesting angio to eval for
   re-expansion of aneurysm.  They do not think MRI or CTA brain would be
   helpful given artifact from clip.
   - Video swallow showed some aspiration w/ clear liquids so this was
   changed to nectar-thickened w/ ground
   - LE U/S w/o dvt
   - run of afib w/ rvr
   History obtained from Patient, Family / Friend
   Allergies:
   History obtained from Patient, Family / FriendPneumovax 23 (Injection)
   (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   hypotension;
   Last dose of Antibiotics:
   Vancomycin - [**2186-6-27**] 08:00 PM
   Meropenem - [**2186-6-28**] 03:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2186-6-28**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Feels well, no complaints.
   Flowsheet Data as of  [**2186-6-28**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 61 (61 - 108) bpm
   BP: 103/55(77) {82/46(57) - 122/71(79)} mmHg
   RR: 21 (16 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,080 mL
                                                                    654 mL
   PO:
                                                                    240 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    840 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  1,025 mL
                                                                    721 mL
   Urine:
                                                                  1,025 mL
                                                                    221 mL
   NG:
   Stool:
   500 mL
   Drains:
   Balance:
                                                                     55 mL
                                                                    -67 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   GENERAL: NAD
   HEENT: Anisicoria with dilated right pupil; 6mm -> 5mm to direct and
   contralateral light; vision somewhat diminished in that eye;
   funcoscopic exam normal
   NECK: RIJ in place
   LUNGS: anterior crackles at b/l bases
   HEART: regular, nl S1-S2, [**3-24**] SM
   ABDOMEN: +BS, distended and tight; non-tender
   EXTREM: [**3-21**]+ BLE pitting edema with abrasions on left toes
   SKIN: no rash
   NEURO: A&Ox2 (knows name/place but can
t tell me time)
   Labs / Radiology
   153 K/uL
   9.7 g/dL
   84 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.0 mEq/L
   10 mg/dL
   103 mEq/L
   139 mEq/L
   28.9 %
   5.8 K/uL
        [image002.jpg]
                             [**2186-6-24**]  02:59 AM
                             [**2186-6-25**]  02:32 AM
                             [**2186-6-25**]  06:31 AM
                             [**2186-6-26**]  03:46 AM
                             [**2186-6-27**]  04:14 AM
                             [**2186-6-28**]  03:15 AM
   WBC
   7.9
   5.8
   9.1
   8.0
   5.8
   Hct
   30.7
   27.7
   29.4
   28.3
   29.9
   28.9
   Plt
   133
   150
   193
   178
   153
   Cr
   0.7
   0.7
   0.8
   0.7
   0.7
   Glucose
   87
   82
   113
   90
   84
   Other labs: PT / PTT / INR:15.2/40.1/1.3, ALT / AST:6/36, Alk Phos / T
   Bili:207/1.0, Differential-Neuts:64.0 %, Band:2.0 %, Lymph:26.0 %,
   Mono:6.0 %, Eos:2.0 %, Albumin:2.6 g/dL, LDH:197 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Micro:
   [**6-24**] Blood cx X 3 w/ NGTD
   CXR with increased RLL infiltrate.
   Assessment and Plan:  66M with a history of pAF, c.diff colitis, recent
   pneumonia, presenting with recurrent PNA/sepsis just two days after
   discharge.
   # Sepsis:  Presented with high fever, hypoxia, and hypotension. Given
   recent pneumonia and use of broad spectrum antibiotics, resistant
   organisms are of concern.  CXR appears worse than recent discharge,
   with new or developing RLL pneumonia.  PICC line was pulled on
   admission with culture showing no growth.  Hypotension IVF responsive.
   Running fevers through vanco and meropenem in the last day. DDX
   includes more highly resistant pathogen (ICU GNR), C diff, drug fever.
   Consider also chemical pneumonitis
 microaspiration on video swallow.
   - Continue vancomycin / [**Last Name (un) **]. Check vanc level.
   - Add on diff
   - Check stool C diff, blood cx, UA/Ucx. Repeat sputum.
   - Pull line and send tip for culture
   - Consider bronch
   # Anisicoria:  Apparently an old finding from record review.
   - Follow
   # Hypoxia:   Likely [**3-20**] pneumonia. Benefits from face mask as he is a
   mouth breather
   - Daily CXR
   - Re-send sputum culture if able to produce
   - Given recurrence x4, f/u HIV. IgG wnl.
   # Paroxysmal atrial fibrillation:  On Flecainide and Digoxin at home.
   Dig level in ED low at 0.5.
   - Continue digoxin and flecainide
   - Continue metoprolol
   - Continue aspirin
   - Per discussion with PCP and cards recommend NO anticoagulation given
   h/o falls
   # Bipolar disorder:  Stable on Depakote for several years with no
   recent changes. Initial concerns over somnolence and flat affect.
   - Continue home Depakote
   - Holding olanzapine,
   - Consider psych consult
   # Hepatitis C:
   - Outpatient liver f/u
   # Bradycardia:  Noted to have a few short episodes of bradycardia and
   hypotension on arrival to ED. Resolved.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Presep Catheter - [**2186-6-23**] 11:[**Street Address(2) 9052**] PIVs and pull IJ
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2186-06-28 08:14:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint:  sepsis
   HPI:
   66 yr old man with hx of parox Afib, C diff, HCV, bipolar and recent
   PNA who was just discharged in [**6-21**] on Vanco Zosyn for PNA.  Overall
   story suspicious for line infection given his HoTN came only after PICC
   removal.  COPD and PNA treatment failure also potential contributors.
   24 Hour Events:
   Neuro findings on exam documented to be old in [**2183**] and on initial
   presentation in [**2167**] for anuerysm.
   CT head without contrast unchanged.
   Video swallow aspiration with clear liquids
   Afib with RVR
   US LE negative for DVT
 FLUOROSCOPY - At [**2186-6-27**] 11:59 AM
   Video swallow study.
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   hypotension;
   Last dose of Antibiotics:
   Vancomycin - [**2186-6-27**] 08:00 PM
   Meropenem - [**2186-6-28**] 03:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2186-6-28**] 06:00 AM
   Other medications:
   Day #  Meropenem 500Q6
   Day #  vanc 1g Q12
   felcinide 50 Po q12
   MVI
   zantac
   iron
   digoxin 0.125 qday
   depakote
   asa 325mg po qday
   Hep SQ
   metoprolol 12.5 po tid
   xopenex
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-6-28**] 08:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 61 (61 - 108) bpm
   BP: 103/55(77) {82/46(57) - 122/71(79)} mmHg
   RR: 21 (16 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,080 mL
                                                                    662 mL
   PO:
                                                                    240 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    840 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                  1,025 mL
                                                                    721 mL
   Urine:
                                                                  1,025 mL
                                                                    221 mL
   NG:
   Stool:
   500 mL
   Drains:
   Balance:
                                                                     55 mL
                                                                    -59 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   GEN   Clinically improved.  NAD
   HEENT:Right Pupil > L decreased upward gaze on right, OP wnl, masked
   faces
   CV:      1/6 SEM. No m/r/g
   LUNGS:   course BS bilaterally
   ABD     distended,soft, obese
   EXT    edematous
   Skin    abrasions on left knee and toes as previously documented.
   NEURO   Verbal hesitancy improved, mild anisacoria with nebs but EOMI
   Labs / Radiology:worsening RLL consolidation
   9.7 g/dL
   153 K/uL
   84 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.0 mEq/L
   10 mg/dL
   103 mEq/L
   139 mEq/L
   28.9 %
   5.8 K/uL
        [image002.jpg]
                             [**2186-6-24**]  02:59 AM
                             [**2186-6-25**]  02:32 AM
                             [**2186-6-25**]  06:31 AM
                             [**2186-6-26**]  03:46 AM
                             [**2186-6-27**]  04:14 AM
                             [**2186-6-28**]  03:15 AM
   WBC
   7.9
   5.8
   9.1
   8.0
   5.8
   Hct
   30.7
   27.7
   29.4
   28.3
   29.9
   28.9
   Plt
   133
   150
   193
   178
   153
   Cr
   0.7
   0.7
   0.8
   0.7
   0.7
   Glucose
   87
   82
   113
   90
   84
   Other labs: PT / PTT / INR:15.2/40.1/1.3, ALT / AST:6/36, Alk Phos / T
   Bili:207/1.0, Differential-Neuts:64.0 %, Band:2.0 %, Lymph:26.0 %,
   Mono:6.0 %, Eos:2.0 %, Albumin:2.6 g/dL, LDH:197 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.3 mg/Dl
   Micro-No new micro
   Assessment and Plan
   66 yr old man with recent PNA returns with sepsis.  Overall story
   suspicious for line infection given his HoTN came only after PICC
   removal.  COPD and PNA treatment failure also potential contributors.
   1. Sepsis: resolved
   Continue Vanco and [**Last Name (un) **] for now.
   Currently Day 14/14 vanc will d
c and check level. and day 6 [**Last Name (un) 430**] for 7
   days
   Will add on Diff
   TBB goal -1L
   2. Hypoxemic Resp Distress: -this is his 4^th RML PNA
   Likely multifactorial: pulm edema after resuscitation, COPD, underlying
   PNA.
   speech and swallow evalutation micro aspiration
   Check total IgG and HIV
   Sputum cx if possible
   Recurrent RML PNA. Will repeat CT today to assess size/ nature of
   effusion and need for drainage. This is likely not helping secretion
   clearance given its size. [**Month (only) 60**] need bronchoscopy if  persistent
   atelctasis after thoracentesis given concerns for BAC
   3. Afib: known back in NSR
   -continue with Dig and Flecanide (home meds)
   -give lopressor for goal SBP<110
   -Will restart Atrovent and hold xopenex
   -Will discuss anticoagulation, recommended against secondary to falls.
   4. Neuro: suspicion for component of parkinsons
   -tylenol for fever
   -continue depakote .  check level
   5.Pupil anasacoria-Will check visual exam and fundoscopic exam
   -neuro following most likely chronic changes
   6. GI:
   -Dysphagia diet.
   7. ICU-Will place peripherals and d
c central line.
   ICU Care
   Nutrition:, will restart diet on aspiration precautions.
   Glycemic Control:
   Lines:
   Presep Catheter - [**2186-6-23**] 11:06 PM, placed on 8th
   Prophylaxis:
   DVT: SQ heprin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU for now but possible callout after thoracentesis
   Total time spent: 35 mins

2186-06-29 07:41:00 Physician Resident Progress Note
Chief Complaint: SOB
   24 Hour Events:
   - Converted to NSR ([**6-28**] @~6:30am); back to afib ([**6-28**] @~6:30pm)
   - HIV returned negative
   - Sent b-glucan/galactomannan
   - Vancomycin level returned (20.6); given therapeutic concentration,
   discontinued (full 14 day course)
   - Spiked (101.3) late afternoon
   - Changed back to atrovent nebs
   - Started e-mycin eye ointment for possible conjunctivitis
   - 3 PIV placed; CVL pulled with tip sent
   - Bronchoscopy deferred given evidence of aspiration
   - CT chest: stable RML consolidation and increased volume loss;
   slightly larger pleural effusions, right > left; ~6 nodules which are
   unchanged since [**2185**]
   - PT consult placed; OOB for part of day
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   hypotension;
   Last dose of Antibiotics:
   Vancomycin - [**2186-6-28**] 08:00 AM
   Meropenem - [**2186-6-29**] 03:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2186-6-29**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2186-6-29**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 36.2
C (97.2
   HR: 89 (59 - 108) bpm
   BP: 99/62(71) {94/44(61) - 143/81(168)} mmHg
   RR: 23 (15 - 28) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
             Total In:
                                                                  1,800 mL
                                                                    416 mL
   PO:
                                                                    960 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    840 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  1,316 mL
                                                                    210 mL
   Urine:
                                                                    816 mL
                                                                    210 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                    484 mL
                                                                    206 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 93%
   ABG: ///29/
   Physical Examination
   Lying in bed no acute distress
   Pupils R>L as before
   Regular S1 S2 no m/r/g
   Lungs with decreased BS at R, few basilar crackles anterior exam
   Abd Soft nontender +bowel sounds
   Extrem Warm anasarca palpable distal pulses
   Labs / Radiology
   163 K/uL
   10.7 g/dL
   97 mg/dL
   0.7 mg/dL
   29 mEq/L
   8.6 mEq/L
   12 mg/dL
   101 mEq/L
   133 mEq/L
   31.6 %
   6.8 K/uL
        [image002.jpg]
   Note sample was hemolyzed, being redrawn
                             [**2186-6-24**]  02:59 AM
                             [**2186-6-25**]  02:32 AM
                             [**2186-6-25**]  06:31 AM
                             [**2186-6-26**]  03:46 AM
                             [**2186-6-27**]  04:14 AM
                             [**2186-6-28**]  03:15 AM
                             [**2186-6-29**]  04:15 AM
   WBC
   7.9
   5.8
   9.1
   8.0
   5.8
   6.8
   Hct
   30.7
   27.7
   29.4
   28.3
   29.9
   28.9
   31.6
   Plt
   133
   150
   193
   178
   153
   163
   Cr
   0.7
   0.7
   0.8
   0.7
   0.7
   0.7
   Glucose
   87
   82
   113
   90
   84
   97
   Other labs: PT / PTT / INR:15.3/49.0/1.3, ALT / AST:6/36, Alk Phos / T
   Bili:207/1.0, Differential-Neuts:59.0 %, Band:2.0 %, Lymph:25.0 %,
   Mono:7.0 %, Eos:6.0 %, Albumin:2.6 g/dL, LDH:197 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Micro
   [**6-28**] blood cx NGTD, priors NGTD
   [**6-28**] central line NGTD
   [**6-28**] urine NGTD
   [**6-24**] stool C diff negative
   [**6-24**] sputum >10 epis
   [**6-28**] glucan and galactomannan pending
   CXR
   1. Stable right middle lobe consolidation with interval increase in
   right
   middle lobe volume loss without evidence of endobronchial lesion.
   Several
   enlarged and numerous prominent mediastinal lymph nodes not
   significantly
   changed from the prior study and likely reactive in nature.
   2. Interval increase in bilateral pleural effusions right greater than
   left.
   3. Multiple bilateral 3-6 mm nodules, unchanged compared to the prior
   study.
   A followup CT is recommended in one year to ensure two-year stability.
   4. Findings consistent with cirrhosis and portal hypertension.
   Assessment and Plan:  66M with a history of pAF, c.diff colitis, recent
   pneumonia, admitted to the ICU with recurrent PNA/sepsis just two days
   after discharge.  Now w/ fevers.
   # Pneumonia:  Continues to require 4L NC.  Presented with high fever,
   hypoxia, and hypotension. CXR with evidence of RLL pneumonia. Probably
   aspirated given results of swallowing study. Given repeated pneumonias
   checked HIV Ab and IgG, both unremarkable.
   - Clinically improving on meropenem, continue to complete 8d course
   (day 7=[**6-29**])
   - Consider thoracentesis today
   - Will need follow-up CT as outpt to f/u nodules
   - F/u glucan and galactomannan
   # Fever:  Unclear etiology. ? from drugs.  LE U/S w/o DVT.
   - continue [**Last Name (un) 430**] for PNA treatment
   - send for cdiff
   - Will tap R pleural effusion.
   - Consider bronch to eval for malignancy, fungal infection, nocardia
   - send sputum
   # Anisicoria:  Apparently an old finding from record review.
   - Follow
   # Paroxysmal atrial fibrillation:  On Flecainide and Digoxin at home.
   Dig level in ED low at 0.5.
   - Continue digoxin and flecainide
   - Continue metoprolol
   - Continue aspirin
   - Per discussion with PCP and cards recommend NO anticoagulation given
   h/o falls
   #Anemia: Stable.  Macrocytic and likely from liver disease.  Recent
   B12/Folate wnl.
   - trend for now
   - guaiac stools
   # Bipolar disorder:  Stable on Depakote for several years with no
   recent changes. Initial concerns over somnolence and flat affect.
   - Continue home Depakote
   - Holding olanzapine as has some parkinsonism
   - Consider psych consult
   # ? Liver disease:  Hep C Ab neg. Hep B serologies c/w prior infection
   (surface and core Ab+.  Transaminases wnl  Mild thrombocytopenia.  INR
   1.3.  Does have a remote history of heavy alcohol use.
   - Outpatient liver f/u
   # Bradycardia:  Noted to have a few short episodes of bradycardia and
   hypotension on arrival to ED. Resolved.
   ICU Care
   Nutrition: PO intake poor, nutrition supplements, c/s
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2186-6-28**] 12:12 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2186-06-29 08:17:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint:  sepsis
   HPI:
   66 yr old man with hx of parox Afib, C diff, HCV, bipolar and recent
   PNA who was just discharged in [**6-21**] on Vanco Zosyn for PNA.  Overall
   story suspicious for line infection given his HoTN came only after PICC
   removal.  COPD and PNA treatment failure also potential contributors.
   24 Hour Events:
   Fever 102.8, repeat CT scan and increased effusion, HIV negative,
   started tx for conjunctavitis.
 BLOOD CULTURED - At [**2186-6-28**] 10:30 AM
   TLCL
 BLOOD CULTURED - At [**2186-6-28**] 10:30 AM
   Left arm stick
 URINE CULTURE - At [**2186-6-28**] 12:13 PM
 PRESEP CATHETER - STOP [**2186-6-28**] 10:00 PM
 FEVER - 102.8
F - [**2186-6-28**] 08:00 PM
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   hypotension;
   Last dose of Antibiotics:
   Vancomycin - [**2186-6-28**] 08:00 AM
   Meropenem - [**2186-6-29**] 03:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2186-6-29**] 06:00 AM
   Other medications:
   Day #7  Meropenem 500Q6
   felcinide 50mg Po q12
   MVI
   zantac 75mg po qday
   iron
   digoxin 0.125 qday
   depakote 500mg po qam and 1g qpm
   asa 325mg po qday
   Hep SQ Q8hr
   metoprolol 12.5 po tid
   xopenex
   erythromycin ointment
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-6-29**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
F) 8PM
   Tcurrent: 37.4
C (99.4
   HR: 67 (59 - 108) bpm
   BP: 98/47(60) {94/46(60) - 143/81(168)} mmHg
   RR: 23 (15 - 28) insp/min
   SpO2: 100% 4L
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,800 mL
                                                                    422 mL
   PO:
                                                                    960 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    840 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                  1,316 mL
                                                                    290 mL
   Urine:
                                                                    816 mL
                                                                    290 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                    484 mL
                                                                    132 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   GEN   Clinically improved.  NAD
   HEENT:Right Pupil > L decreased upward gaze on right, OP wnl, masked
   faces
   CV:      1/6 SEM. No m/r/g
   LUNGS:   course BS bilaterally with decreased BS on right compared to
   left.
   ABD     distended,soft, obese
   EXT    edematous
   Skin    abrasions on left knee and toes as previously documented.
   NEURO   Verbal hesitancy, mild anisacoria with nebs but EOMI
   Labs / Radiology:CT scan reviewed
   10.7 g/dL
   163 K/uL
   97 mg/dL
   0.7 mg/dL
   29 mEq/L
   4 mEq/L
   12 mg/dL
   101 mEq/L
   133 mEq/L
   31.6 %
   6.8 K/uL
        [image002.jpg]
                             [**2186-6-24**]  02:59 AM
                             [**2186-6-25**]  02:32 AM
                             [**2186-6-25**]  06:31 AM
                             [**2186-6-26**]  03:46 AM
                             [**2186-6-27**]  04:14 AM
                             [**2186-6-28**]  03:15 AM
                             [**2186-6-29**]  04:15 AM
   WBC
   7.9
   5.8
   9.1
   8.0
   5.8
   6.8
   Hct
   30.7
   27.7
   29.4
   28.3
   29.9
   28.9
   31.6
   Plt
   133
   150
   193
   178
   153
   163
   Cr
   0.7
   0.7
   0.8
   0.7
   0.7
   0.7
   Glucose
   87
   82
   113
   90
   84
   97
   Other labs: PT / PTT / INR:15.3/49.0/1.3, ALT / AST:6/36, Alk Phos / T
   Bili:207/1.0, Differential-Neuts:59.0 %, Band:2.0 %, Lymph:25.0 %,
   Mono:7.0 %, Eos:6.0 %, Albumin:2.6 g/dL, LDH:197 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Micro no new growth.
   Assessment and Plan
   66 yr old man with recent PNA returns with sepsis.  Overall story
   suspicious for line infection given his HoTN came only after PICC
   removal.  COPD and PNA treatment failure also potential contributors.
   Continues to demonstrate fevers with increased right sided effusion.
   1. Sepsis: Fevers continue
   Continue   [**Last Name (un) **] for 10 day course.
   Currently Day day 7 [**Last Name (un) 430**] for 10 days
   Will add on Diff
   will tap effusion given recurrent fevers, suspect either catheter
   infection or C. Diff colitis ( will start Flagyl today)
   2. Hypoxemic Resp Distress: -unresolving PNA
   Likely multifactorial: pulm edema after resuscitation, COPD, underlying
   PNA.
   speech and swallow evalutation micro aspiration
   Sputum cx if possible
   3. Afib: known back in NSR
   -continue with Dig and Flecanide (home meds)
   -give lopressor for goal SBP<110
   -Will restart Atrovent and hold xopenex
   -Will discuss anticoagulation, recommended against secondary to falls.
   4. Neuro: suspicion for component of parkinsons
   -tylenol for fever
   -continue depakote.  check level
   Suspect some component of hepatic encephalopathy
   5.Pupil anasacoria-Will check visual exam and fundoscopic exam
   -neuro following most likely chronic changes
   6. GI:
   -Dysphagia diet.
   ICU Care
   Nutrition: dysphagia diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-6-28**] 12:12 PM
   Prophylaxis:
   DVT: SQ heprin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU  till fevers resolved and nutritional intake is better
   , may need TPN if diarrhea continues. Also may need ID/ hepatology
   input for fevers/ ? cirrhosis
   Total time spent:  35 mins

2186-06-30 07:45:00 Physician Resident Progress Note
Chief Complaint: PNA
   24 Hour Events:
   - deferred thoracentesis due to pt difficulty positioning and little
   fluid
   - seen by opthalmology thought dry eyes, filamentary keratitis: rec
   emycin and lube
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsPneumovax 23 (Injection)
   (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   hypotension;
   Last dose of Antibiotics:
   Vancomycin - [**2186-6-28**] 08:00 AM
   Meropenem - [**2186-6-30**] 03:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2186-6-30**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-6-30**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.2
   HR: 103 (60 - 114) bpm
   BP: 97/60(67) {93/43(54) - 128/82(103)} mmHg
   RR: 20 (15 - 23) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
             Total In:
                                                                    880 mL
                                                                    177 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    640 mL
                                                                    177 mL
   [**Year (4 digits) 1526**] products:
   Total out:
                                                                    835 mL
                                                                    185 mL
   Urine:
                                                                    835 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     45 mL
                                                                     -8 mL
   Respiratory support
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   Lying in bed no acute distress
   Pupils R>L as before
   Regular S1 S2 no m/r/g
   Lungs with decreased BS at R, few basilar crackles anterior exam
   Abd Soft nontender +bowel sounds
   Extrem Warm anasarca palpable distal pulses
   Labs / Radiology
   175 K/uL
   9.8 g/dL
   99 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.1 mEq/L
   12 mg/dL
   104 mEq/L
   138 mEq/L
   29.8 %
   6.1 K/uL
        [image002.jpg]
                             [**2186-6-24**]  02:59 AM
                             [**2186-6-25**]  02:32 AM
                             [**2186-6-25**]  06:31 AM
                             [**2186-6-26**]  03:46 AM
                             [**2186-6-27**]  04:14 AM
                             [**2186-6-28**]  03:15 AM
                             [**2186-6-29**]  04:15 AM
                             [**2186-6-29**]  06:41 AM
                             [**2186-6-30**]  03:16 AM
   WBC
   7.9
   5.8
   9.1
   8.0
   5.8
   6.8
   5.6
   6.1
   Hct
   30.7
   27.7
   29.4
   28.3
   29.9
   28.9
   31.6
   29.9
   29.8
   Plt
   133
   150
   193
   178
   153
   163
   139
   175
   Cr
   0.7
   0.7
   0.8
   0.7
   0.7
   0.7
   0.6
   0.6
   Glucose
   87
   82
   113
   90
   84
   97
   81
   99
   Other labs: PT / PTT / INR:15.3/49.0/1.3, ALT / AST:6/36, Alk Phos / T
   Bili:207/1.0, Differential-Neuts:59.0 %, Band:0.0 %, Lymph:29.0 %,
   Mono:11.0 %, Eos:1.0 %, Albumin:2.6 g/dL, LDH:197 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Imaging: [**6-28**] CT chest w/o contrast
   IMPRESSION:
   1. Stable right middle lobe consolidation with interval increase in
   right
   middle lobe volume loss without evidence of endobronchial lesion.
   Several
   enlarged and numerous prominent mediastinal lymph nodes not
   significantly
   changed from the prior study and likely reactive in nature.
   2. Interval increase in bilateral pleural effusions right greater than
   left.
   3. Multiple bilateral 3-6 mm nodules, unchanged compared to the prior
   study.
   A followup CT is recommended in one year to ensure two-year stability.
   4. Findings consistent with cirrhosis and portal hypertension.
   Microbiology: [**6-24**], [**6-28**] [**Month/Year (2) 1526**] cx NGTD
   [**6-29**] C diff neg
   [**6-28**] wound cx pending
   [**2186-6-28**] 10:09 am URINE      Source: Catheter.
                               **FINAL REPORT [**2186-6-29**]**
      URINE CULTURE (Final [**2186-6-29**]):
         YEAST.    10,000-100,000 ORGANISMS/ML..
   Assessment and Plan:  66M with a history of pAF, c.diff colitis, recent
   pneumonia, admitted to the ICU with recurrent PNA/sepsis just two days
   after discharge.  Now w/ fevers.
   # Pneumonia:  Continues to require 4L NC.  Presented with high fever,
   hypoxia, and hypotension. CXR with evidence of RLL pneumonia. Probably
   aspirated given results of swallowing study. Given repeated pneumonias
   checked HIV Ab and IgG, both unremarkable.
   - Clinically improving on meropenem, continue to complete 10d course
   (day 7=[**6-29**])
   - Will need follow-up CT as outpt to f/u nodules
   - Holding off on thoracentesis
   - F/u glucan and galactomannan
   # Fever:
   Clinically improved following initiation of flagyl. No lab evidence of
   C diff thus far.
   Unclear etiology. ? from drugs.  LE U/S w/o DVT.
   - continue flagyl will plan to continue for 10-14d post end of
   meropenem course
   - continue [**Last Name (un) 430**] for PNA treatment as above
   - follow up pending micro and reculture if febrile
   # Anisicoria:  Apparently an old finding from record review.
   - Follow
   # Paroxysmal atrial fibrillation:  On Flecainide and Digoxin at home.
   Dig level in ED low at 0.5.
   - Continue digoxin and flecainide
   - Continue metoprolol
   - Continue aspirin
   - Per discussion with PCP and cards recommend NO anticoagulation given
   h/o falls
   #Anemia: Stable.  Macrocytic and likely from liver disease.  Recent
   B12/Folate wnl.
   - trend for now
   - guaiac stools
   # Bipolar disorder:  Stable on Depakote for several years with no
   recent changes. Initial concerns over somnolence and flat affect.
   - Continue home Depakote
   - Consider antidepressant
   - Discuss parkinsonism with neuro
   # ? Liver disease:  Hep C Ab neg. Hep B serologies c/w prior infection
   (surface and core Ab+.  Transaminases wnl  Mild thrombocytopenia.  INR
   1.3.  Does have a remote history of heavy alcohol use.
   - Outpatient liver f/u
   # Bradycardia:  Noted to have a few short episodes of bradycardia and
   hypotension on arrival to ED. Resolved.
   ICU Care
   Nutrition:  Discuss tube feeds with wife
   Glycemic Control:  [**Name (NI) 1526**] sugar well controlled
   Lines:
   18 Gauge - [**2186-6-28**] 12:12 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2186-06-30 11:19:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint:  sepsis ( RML PNA, C Diff)
   HPI:
   66 yr old man with hx of parox Afib, C diff, HCV, bipolar and recent
   PNA who was just discharged in [**6-21**] on Vanco Zosyn for PNA.  Overall
   story suspicious for line infection given his HoTN came only after PICC
   removal.  COPD and PNA treatment failure also potential contributors.
   24 Hour Events:
   Seen by optho dry eyes.
   No other events
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   hypotension;
   Last dose of Antibiotics:
   Vancomycin - [**2186-6-28**] 08:00 AM
   Meropenem - [**2186-6-30**] 09:11 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2186-6-30**] 06:00 AM
   Other medications:
   Day #8  Meropenem 500Q6
   Day #1   Flagyl 500 Q8
   felcinide 50mg Po q12
   MVI
   zantac 75mg po qday
   iron
   digoxin 0.125 qday
   depakote 500mg po qam and 1g qpm
   asa 325mg po qday
   Hep SQ Q8hr
   metoprolol 12.5 po tid
   xopenex
   erythromycin ointment
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-6-30**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.2
   HR: 88 (60 - 103) bpm
   BP: 101/62(68) {87/43(54) - 117/67(103)} mmHg
   RR: 18 (14 - 23) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
             Total In:
                                                                    880 mL
                                                                    433 mL
   PO:
                                                                    240 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    640 mL
                                                                    313 mL
   Blood products:
   Total out:
                                                                    835 mL
                                                                    435 mL
   Urine:
                                                                    835 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     45 mL
                                                                     -2 mL
   Respiratory support
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   GEN   Clinically improved.  NAD
   HEENT:Right Pupil > L decreased upward gaze on right, OP wnl, masked
   faces
   CV:      1/6 SEM. No m/r/g
   LUNGS:   course BS bilaterally with decreased BS on right compared to
   left.
   ABD     distended,soft, obese
   EXT    edematous
   Skin    abrasions on left knee and toes as previously documented.
   NEURO   Verbal hesitancy, mild anisacoria with nebs but EOMI
   Labs / Radiology
   9.8 g/dL
   175 K/uL
   99 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.1 mEq/L
   12 mg/dL
   104 mEq/L
   138 mEq/L
   29.8 %
   6.1 K/uL
        [image002.jpg]
                             [**2186-6-24**]  02:59 AM
                             [**2186-6-25**]  02:32 AM
                             [**2186-6-25**]  06:31 AM
                             [**2186-6-26**]  03:46 AM
                             [**2186-6-27**]  04:14 AM
                             [**2186-6-28**]  03:15 AM
                             [**2186-6-29**]  04:15 AM
                             [**2186-6-29**]  06:41 AM
                             [**2186-6-30**]  03:16 AM
   WBC
   7.9
   5.8
   9.1
   8.0
   5.8
   6.8
   5.6
   6.1
   Hct
   30.7
   27.7
   29.4
   28.3
   29.9
   28.9
   31.6
   29.9
   29.8
   Plt
   133
   150
   193
   178
   153
   163
   139
   175
   Cr
   0.7
   0.7
   0.8
   0.7
   0.7
   0.7
   0.6
   0.6
   Glucose
   87
   82
   113
   90
   84
   97
   81
   99
   Other labs: PT / PTT / INR:15.3/49.0/1.3, ALT / AST:6/36, Alk Phos / T
   Bili:207/1.0, Differential-Neuts:59.0 %, Band:0.0 %, Lymph:29.0 %,
   Mono:11.0 %, Eos:1.0 %, Albumin:2.6 g/dL, LDH:197 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   66 yr old man with recent PNA returns with sepsis.  Overall story
   suspicious for line infection given his HoTN came only after PICC
   removal.  COPD and PNA treatment failure also potential contributors.
   Continues to demonstrate fevers with increased right sided effusion.
   1. Sepsis: Fevers improved
   Continue   [**Last Name (un) **] for 10 day course.
   Currently Day day 7 [**Last Name (un) 430**] for 10 days
   Will continue C.Diff tx even with negative c.diff
   will tap effusion given recurrent fevers, suspect either catheter
   infection or C. Diff colitis ( will start Flagyl today)
   2. Hypoxemic Resp Distress: -unresolving PNA
   Likely multifactorial: pulm edema after resuscitation, COPD, underlying
   PNA.
   speech and swallow evalutation micro aspiration
   Sputum cx if possible
   -X-ray tomorrow.
   3. Afib: known back in NSR
   -continue with Dig and Flecanide (home meds)
   -give lopressor for goal SBP<110
   -Will restart Atrovent and hold xopenex
   -Will discuss anticoagulation, recommended against secondary to falls.
   4. Neuro: suspicion for component of parkinsons
   -tylenol for fever
   -continue depakote.  check level
   -Suspect some component of hepatic encephalopathy
   -Will ask neuro regarding treatment for parkinsons
   Will start SSRI or low dose Ritalin
   5.Pupil anasacoria-Will check visual exam and fundoscopic exam
   -neuro following most likely chronic changes
   6.Depression-will speak with psychiatrist given depressive symptoms and
   signs of parkinsons
   7. GI:
   -Dysphagia diet. Will discuss placing NG tube to provide nutritional
   support, may need TPN if intake not optimal with NG tube
   ICU Care
   Nutrition: Will start tube feeds
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-6-28**] 12:12 PM
   Prophylaxis:
   DVT: SQ heprin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, still tenuous hemodynamics
   Total time spent:  35 mins

2186-07-01 07:15:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
   - Started ritalin for persistent somnolence
   - attempted to reach psychiatrist [**First Name8 (NamePattern2) 4220**] [**Last Name (NamePattern1) 274**] ([**Telephone/Fax (1) 9086**] X 238 but
   could not reach
   - Tube feeds to be started in the morning but he refused dopoff
   placement.  Will need to discuss this am w/ wife and patient again.
   - stools becoming less frequent and more formed
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsPneumovax 23 (Injection)
   (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   hypotension;
   Last dose of Antibiotics:
   Vancomycin - [**2186-6-28**] 08:00 AM
   Meropenem - [**2186-7-1**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-7-1**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.1
C (98.8
   HR: 80 (62 - 122) bpm
   BP: 122/65(79) {91/41(54) - 122/68(79)} mmHg
   RR: 23 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,963 mL
                                                                    170 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                  1,123 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                    410 mL
   Urine:
                                                                    700 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,263 mL
                                                                   -240 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   GEN Lying in bed no acute distress, delayed response to questions as
   prior, pale appearing, diaphoretic
   HEENT Dry MM
   CV Irreg irregular S1 S2 no m/r/g
   Lungs with decreased BS at R, few bibasilar crackles
   Abd Soft nontender +bowel sounds
   Extrem Warm anasarca palpable distal pulses
   Labs / Radiology
   182 K/uL
   11.0 g/dL
   101 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.2 mEq/L
   12 mg/dL
   104 mEq/L
   140 mEq/L
   33.9 %
   5.0 K/uL
        [image002.jpg]
                             [**2186-6-24**]  02:59 AM
                             [**2186-6-25**]  02:32 AM
                             [**2186-6-25**]  06:31 AM
                             [**2186-6-26**]  03:46 AM
                             [**2186-6-27**]  04:14 AM
                             [**2186-6-28**]  03:15 AM
                             [**2186-6-29**]  04:15 AM
                             [**2186-6-29**]  06:41 AM
                             [**2186-6-30**]  03:16 AM
                             [**2186-7-1**]  03:20 AM
   WBC
   7.9
   5.8
   9.1
   8.0
   5.8
   6.8
   5.6
   6.1
   5.0
   Hct
   30.7
   27.7
   29.4
   28.3
   29.9
   28.9
   31.6
   29.9
   29.8
   33.9
   Plt
   133
   150
   193
   178
   153
   163
   139
   175
   182
   Cr
   0.7
   0.7
   0.8
   0.7
   0.7
   0.7
   0.6
   0.6
   0.7
   Glucose
   87
   82
   113
   90
   84
   97
   81
   99
   101
   Other labs: PT / PTT / INR:15.3/120.0/1.4, ALT / AST:24/89, Alk Phos /
   T Bili:408/0.8, Differential-Neuts:59.0 %, Band:0.0 %, Lymph:29.0 %,
   Mono:11.0 %, Eos:1.0 %, Albumin:2.6 g/dL, LDH:197 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Microbiology: [**6-28**] Blood cx w/ ngtd
   Assessment and Plan:  66M with a history of pAF, c.diff colitis, recent
   pneumonia, admitted to the ICU with recurrent PNA/sepsis just two days
   after discharge.  Now w/ fevers.
   # Pneumonia:  Continues to require 4L NC.  Presented with high fever,
   hypoxia, and hypotension. CXR with evidence of RLL pneumonia. Probably
   aspirated given results of swallowing study. Given repeated pneumonias
   checked HIV Ab and IgG, both unremarkable.
   - Clinically improving on meropenem, continue to complete 10d course
   (day 7=[**6-29**])
   - Will need follow-up CT as outpt to f/u nodules
   - Holding off on thoracentesis
   - F/u glucan and galactomannan
   # Fever:
   Clinically improved following initiation of flagyl. No lab evidence of
   C diff thus far.
   Unclear etiology. ? from drugs.  LE U/S w/o DVT.
   - continue flagyl will plan to continue for 10-14d post end of
   meropenem course
   - continue [**Last Name (un) 430**] for PNA treatment as above
   - follow up pending micro and reculture if febrile
   # Anisicoria:  Apparently an old finding from record review.
   - Follow
   # Paroxysmal atrial fibrillation:  On Flecainide and Digoxin at home.
   Dig level in ED low at 0.5.
   - Continue digoxin and flecainide
   - Continue metoprolol
   - Continue aspirin
   - Per discussion with PCP and cards recommend NO anticoagulation given
   h/o falls
   #Anemia: Stable.  Macrocytic and likely from liver disease.  Recent
   B12/Folate wnl.
   - trend for now
   - guaiac stools
   # Bipolar disorder:  Stable on Depakote for several years with no
   recent changes. Initial concerns over somnolence and flat affect.
   - Continue home Depakote
   - Consider antidepressant
   - Discuss parkinsonism with neuro
   # ? Liver disease:  Hep C Ab neg. Hep B serologies c/w prior infection
   (surface and core Ab+.  Transaminases wnl  Mild thrombocytopenia.  INR
   1.3.  Does have a remote history of heavy alcohol use.
   - Outpatient liver f/u
   # Bradycardia:  Noted to have a few short episodes of bradycardia and
   hypotension on arrival to ED. Resolved.
   ICU Care
   Nutrition: Consider placing dopoff today for tube feeds (pt refuses
   currently)
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2186-6-28**] 12:12 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2186-07-01 10:24:00 Physician Attending Progress Note
Chief Complaint: pna
   HPI:
   24 Hour Events:
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   hypotension;
   Last dose of Antibiotics:
   Meropenem - [**2186-7-1**] 07:41 AM
   Infusions:
   Other ICU medications:
   Other medications:
   mvi, zantac, iron, dig, asa 325, shq, [**Last Name (un) 430**], metopr
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-7-1**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.6
C (97.8
   HR: 82 (62 - 122) bpm
   BP: 96/63(72) {80/41(54) - 122/68(79)} mmHg
   RR: 14 (14 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,963 mL
                                                                    406 mL
   PO:
                                                                    840 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,123 mL
                                                                    286 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                    515 mL
   Urine:
                                                                    700 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,263 mL
                                                                   -109 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.0 g/dL
   182 K/uL
   101 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.2 mEq/L
   12 mg/dL
   104 mEq/L
   140 mEq/L
   33.9 %
   5.0 K/uL
        [image002.jpg]
                             [**2186-6-24**]  02:59 AM
                             [**2186-6-25**]  02:32 AM
                             [**2186-6-25**]  06:31 AM
                             [**2186-6-26**]  03:46 AM
                             [**2186-6-27**]  04:14 AM
                             [**2186-6-28**]  03:15 AM
                             [**2186-6-29**]  04:15 AM
                             [**2186-6-29**]  06:41 AM
                             [**2186-6-30**]  03:16 AM
                             [**2186-7-1**]  03:20 AM
   WBC
   7.9
   5.8
   9.1
   8.0
   5.8
   6.8
   5.6
   6.1
   5.0
   Hct
   30.7
   27.7
   29.4
   28.3
   29.9
   28.9
   31.6
   29.9
   29.8
   33.9
   Plt
   133
   150
   193
   178
   153
   163
   139
   175
   182
   Cr
   0.7
   0.7
   0.8
   0.7
   0.7
   0.7
   0.6
   0.6
   0.7
   Glucose
   87
   82
   113
   90
   84
   97
   81
   99
   101
   Other labs: PT / PTT / INR:15.3/120.0/1.4, ALT / AST:24/89, Alk Phos /
   T Bili:408/0.8, Differential-Neuts:59.0 %, Band:0.0 %, Lymph:29.0 %,
   Mono:11.0 %, Eos:1.0 %, Albumin:2.6 g/dL, LDH:197 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 .H/O DEPRESSION
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 ALTERATION IN NUTRITION
 ATRIAL FIBRILLATION (AFIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
   66M with cdiff and recurrent pna, now much imroved on meropenem:
   PNA
   -[**Last Name (un) 430**] day [**10-26**]
   -cont nasal cannula
   -fever down
   DIARRHEA / PRESUMED CDIFF: improved c
   -cont flagyl 2 wks post meropenem
   BIPOLAR/PD/SON[**Name (NI) 9088**]:
   -considering ritalin although much improved before initiation today
   -neuro re PD tx on floor
   MALNUTRITION
   -improving
   -will discuss
   ICU Care
   Nutrition:
   Comments: NEEDS NGT
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2186-6-28**] 12:12 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes